US09216980B2
Step 1: 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester
Bromine (6.76 ml, 132.0 mmol) was added to a mixture of 9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (10.0 g, 44.0 mmol) and sodium acetate (11.2 g, 136.4 mmol) in acetic acid (360 mL) and then the reaction mixture was heated at 100° C. for 90 minutes. The reaction mixture was then cooled to ambient temperature and the solvent removed under reduced pressure then the residue was treated with saturated sodium thiosulfate solution (40 mL) followed by water (100 mL) and then the pH of the aqueous solution was adjusted to 7 by the addition of saturated sodium hydrogen carbonate solution. The resultant precipitate was collected by filtration and the solid was washed with water (20 mL) then dried at 60° C. until constant weight was achieved, to afford the desired material as an off-white solid (14.0 g, quantitative yield). 1H NMR (DMSO-D6, 300 MHz): 9.13 (d, J=2.3 Hz, 1H), 9.00 (d, J=2.0 Hz, 2H), 8.70 (d, J=2.3 Hz, 1H), 3.92 (s, 3H). LCMS (Method B): RT=2.92 min, M+H+=306/308.

reactant | Bromine | 132.0 mmol, 6.76 ml | BrBr | Br2
reactant | 9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 44.0 mmol, 10.0 g | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC=C3 | C12H9N3O2
reactant | sodium acetate | 136.4 mmol, 11.2 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 360 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 14.0 g, quantitative yield | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C12H8BrN3O2
